US09315500B2
Step 2: 5,7-Dichloro-3H-pyrido[3,4-d]pyridazin-4-one
To a suspension of 4,6-dichloro-1-hydroxy-1H-furo[3,4-c]pyridin-3-one (9.37 g) stirring in water (100 ml) was added hydrazine sulfate (10.58 ml) and sodium acetate (13.56 g). The reaction mixture was heated at reflux and stirred for 2 h. The reaction mixture was cooled to RT, diluted with water (150 ml) and extracted with EtOAc (2×75 ml). The combined organic layers were washed with saturated Na2CO3 solution and dried over Na2SO4. Evaporation to dryness gave the desired product as brown solid.

reactant | 4,6-dichloro-1-hydroxy-1H-furo[3,4-c]pyridin-3-one | 9.37 g | ClC1=NC(=CC2=C1C(OC2O)=O)Cl | C7H3Cl2NO3
reactant | hydrazine sulfate | 10.58 ml | S(=O)(=O)(O)O.NN
reactant | sodium acetate | 13.56 g | C(C)(=O)[O-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | 5,7-Dichloro-3H-pyrido[3,4-d]pyridazin-4-one | ClC1=NC(=CC2=C1C(NN=C2)=O)Cl | C7H3Cl2N3O
